US04443466
4-(2',3'-Dimethylbenzyl)imidazole
A mixture of 7.6 g of 4-(2',3'-dimethylbenzyl)-N-acetylimidazole and 30 ml of 6 N hydrochloric acid is refluxed with stirring for 4 hours. The mixture is distilled to a smaller volume and 50 ml of water are added. The pH is adjusted with sodium hydroxide to 8-9. The mixture is then cooled and filtered and the filter cake is washed with water and dried. The product melts at 110°-115° C.

reactant | 4-(2',3'-dimethylbenzyl)-N-acetylimidazole | 7.6 g | CC1=C(CC=2N=CN(C2)C(C)=O)C=CC=C1C | C14H16N2O
solvent | hydrochloric acid | 6 N, 30 ml | Cl | ClH
product | 4-(2',3'-Dimethylbenzyl)imidazole | CC1=C(CC=2N=CNC2)C=CC=C1C | C12H14N2
